US08030438B2
(26) Synthesis of 3′,4″,3″″′,4″″″,3″″″″′,4″″″″″-hexakis(dibutoxyphosphoryl)-[2,2′;5′,2″;5″,2″′;5″′,2″″;5″″,2″″′;5″″′,2″″″;5″″″,2″″″′;5″″″′,2″″″″;5″″″″,2″″″″′;5″″″″′,2″″″″″;5″″″″″,2″″″″″′]-dodecithiophene
At room temperature, 0.0925 g (0.082 mmols) of 3″,4″′-bis(dibutoxyphosphoryl)-5,5″″′-diiodo-[2,2′;5′,2″; 5″,2″′;5″′,2″″;5″″,2″″′]-sexithiophene and 0.0076 g (0.0065 mmols) of commercially available tetrakistriphenylphosphine palladium were dissolved in 3 mL of toluene, to which 0.1508 g (0.16 mmols) of 3′,4″-bis(dibutoxyphosphoryl)-5″-(tributylstannyl)-[2,2′;5′,2″]-terthiophene and 0.0029 g (0.032 mmols) of commercially available copper(I) chloride were added at room temperature. Thereafter, the reaction mixture was heated and stirred under reflux for 2 hours. After the reaction, the reaction mixture was cooled down to room temperature, to which a potassium fluoride aqueous solution was added, followed by stirring for 1 hour. Subsequently, the solid was removed by celite filtration and the filtrate was extracted with ethyl acetate. The organic phase was washed with a saturated saline solution and dried over anhydrous sodium sulfate. The solvent was removed by distilling off under reduced pressure, and the resulting crude product was purified with a PTLC plate (developed with ethyl acetate:hexane=2:1 and ethyl acetate:hexane=3:1) to obtain the specified substance in the form of a red solid at a yield of 0.0720 g (yield: 41%).

reactant | 3″,4″′-bis(dibutoxyphosphoryl)-5,5″″′-diiodo-[2,2′;5′,2″; 5″,2″′;5″′,2″″;5″″,2″″′]-sexithiophene | 0.082 mmols, 0.0925 g | C(CCC)OP(=O)(OCCCC)C1=C(SC(=C1)C=1SC(=C(C1)P(=O)(OCCCC)OCCCC)C=1SC(=CC1)C=1SC(=CC1)I)C1=CC=C(S1)C=1SC(=CC1)I | C40H46I2O6P2S6
reactant | 3′,4″-bis(dibutoxyphosphoryl)-5″-(tributylstannyl)-[2,2′;5′,2″]-terthiophene | 0.16 mmols, 0.1508 g | C(CCC)OP(=O)(OCCCC)C1=C(SC(=C1)C=1SC(=C(C1)P(=O)(OCCCC)OCCCC)[Sn](CCCC)(CCCC)CCCC)C=1SC=CC1
reactant | potassium fluoride | [F-].[K+]
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | copper(I) chloride | [Cu]Cl
product | 3′,4″,3″″′,4″″″,3″″″″′,4″″″″″-hexakis(dibutoxyphosphoryl)-[2,2′;5′,2″;5″,2″′;5″′,2″″;5″″,2″″′;5″″′,2″″″;5″″″,2″″″′;5″″″′,2″″″″;5″″″″,2″″″″′;5″″″″′,2″″″″″;5″″″″″,2″″″″″′]-dodecithiophene | yield: 41% | C(CCC)OP(=O)(OCCCC)C1=C(SC(=C1)C=1SC(=C(C1)P(=O)(OCCCC)OCCCC)C=1SC(=CC1)C=1SC(=CC1)C=1SC(=CC1P(=O)(OCCCC)OCCCC)C=1SC(=C(C1)P(=O)(OCCCC)OCCCC)C=1SC(=CC1)C=1SC(=CC1)C=1SC(=CC1P(=O)(OCCCC)OCCCC)C=1SC(=C(C1)P(=O)(OCCCC)OCCCC)C=1SC=CC1)C=1SC=CC1 | C96H128O18P6S12
